US20010007862A1
Ziprasidone Esylate
1 g of ziprasidone free base was added to 45 mL of THF and 1 mL of water, and the mixture was heated to 60°C. while stirring. The mixture was maintained at 60°C. for two hours, at which time all of the free base had dissolved. 156 mg of ethanesulfonic acid was added and stirring was maintained at 60°C. for two more hours. The mixture turned from light orange to hazy during this time, at which point heating was stopped and the salt started to precipitate. The mixture was allowed to cool to room temperature overnight while stirring continued. The salt was then harvested by filtration as in Example 5.

reactant | ziprasidone | 1 g | C=1C=CC2=C(C1)C(=NS2)N3CCN(CC3)CCC=4C=C5C(=CC4Cl)NC(=O)C5 | C21H21ClN4OS
reactant | THF | 45 mL | C1CCOC1 | C4H8O
reactant | ethanesulfonic acid | 156 mg | C(C)S(=O)(=O)O | C2H6O3S
solvent | water | 1 mL | O | H2O
product | Ziprasidone Esylate | C=1C=CC2=C(C1)C(=NS2)N3CCN(CC3)CCC=4C=C5C(=CC4Cl)NC(=O)C5.S(=O)(=O)([O-])CC | InChI=1S/C21H21ClN4OS.C2H6O3S/c22-17-13-18-15(12-20(27)23-18)11-14(17)5-6-25-7-9-26(10-8-25)21-16-3-1-2-4-19(16)28-24-21;1-2-6(3,4)5/h1-4,11,13H,5-10,12H2,(H,23,27);2H2,1H3,(H,3,4,5)/p-1
